US04080207
Preparation of 1-Acetyl-2-(4-nitrophenyl)hydrazine
4-Nitrophenylhydrazine (15.0 g, 0.10 mole) and acetic acid (24.0 g, 0.40 mole) were mixed in a flask equipped with a stirrer and reflux condenser and heated at about 90° C for one hour. The solid mass was collected, washed with water, and then dissolved in hot ethanol. The resulting solution was chilled in ice to give tan needles. Yield 14.4 g (74%), mp 207°-209° C.

reactant | 4-Nitrophenylhydrazine | 0.10 mole, 15.0 g | [N+](=O)([O-])C1=CC=C(C=C1)NN | C6H7N3O2
reactant | acetic acid | 0.40 mole, 24.0 g | C(C)(=O)O | C2H4O2
product | 1-Acetyl-2-(4-nitrophenyl)hydrazine | C(C)(=O)NNC1=CC=C(C=C1)[N+](=O)[O-] | C8H9N3O3
